US07687503B2
11.4. 2-(methylamino)-2-oxoethyl 4-(5-{4-[(trifluoro-methyl)oxy]phenyl}-2-pyridyl)-1,4-diazepane-1-carboxylate
0.12 g (0.3 mmol) of 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1,4-diazepane-1-carboxylate, prepared in step 11.3., 0.25 g (1.2 mmol) of 4-(trifluoromethoxy)-phenylboronic acid and 0.9 ml (1.8 mmol) of aqueous sodium carbonate solution (2M), suspended in 3.5 ml of toluene and 0.8 ml of ethanol are introduced into a Pyrex reactor. 0.07 g (0.06 mmol) of tetrakis-(triphenylphosphine)palladium is then added and, after sealing the reactor, it is maintained at 150° C. for 15 minutes under microwave irradiation. The organic phase is recovered after separation of the phases by settling, and the filtrate is concentrated under reduced pressure. The residue thus obtained is purified by chromatography on silica gel, eluting with a 30/70/5 mixture of ethyl acetate, cyclohexane and methanol. After crystallization from diisopropyl ether, 0.078 g of product is obtained in the form of a white solid.

reactant | 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1,4-diazepane-1-carboxylate | 0.3 mmol, 0.12 g | BrC=1C=CC(=NC1)N1CCN(CCC1)C(=O)OCC(=O)NC | C14H19BrN4O3
reactant | 4-(trifluoromethoxy)-phenylboronic acid | 1.2 mmol, 0.25 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 1.8 mmol, 2M, 0.9 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | toluene | 3.5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(methylamino)-2-oxoethyl 4-(5-{4-[(trifluoro-methyl)oxy]phenyl}-2-pyridyl)-1,4-diazepane-1-carboxylate | 0.078 g | FC(OC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CCC1)C(=O)OCC(=O)NC)(F)F | C21H23F3N4O4
